US05939413
To an ice-cooled solution of (5R)-4-[3,5-bis(trifluoromethyl)benzoyl]-1-(ethoxycarbonylmethyl)-5-(1H-indol-3-ylmethyl)piperazin-2-one (0.88 g) in ethanol (20 ml) was added 1N sodium hydroxide solution (1.58 ml). The mixture was stirred at the same temperature for 30 minutes and then at room temperature for 1 hour and 45 minutes. The mixture was concentrated under reduced pressure, and water and 1N hydrochloric acid (1.58 ml) were added to the residue under ice-cooling. The mixture was extracted with ethyl acetate. The organic layer was washed with brine, and dried over magnesium sulfate. After evaporation in vacuo, n-hexane was added to the crystalline residue and the resulting crystals were collected by filtration, washed with n-hexane, and dried to give (5R)-4-[3,5-bis(trifluoromethyl)benzoyl]-1-(carboxymethyl)-5-(1H-indol-3-ylmethyl)piperazin-2-one (0.76 g).

reactant | (5R)-4-[3,5-bis(trifluoromethyl)benzoyl]-1-(ethoxycarbonylmethyl)-5-(1H-indol-3-ylmethyl)piperazin-2-one | 0.88 g | FC(C=1C=C(C(=O)N2CC(N(C[C@H]2CC2=CNC3=CC=CC=C23)CC(=O)OCC)=O)C=C(C1)C(F)(F)F)(F)F | C26H23F6N3O4
reactant | sodium hydroxide | 1N, 1.58 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (5R)-4-[3,5-bis(trifluoromethyl)benzoyl]-1-(carboxymethyl)-5-(1H-indol-3-ylmethyl)piperazin-2-one | 0.76 g | FC(C=1C=C(C(=O)N2CC(N(C[C@H]2CC2=CNC3=CC=CC=C23)CC(=O)O)=O)C=C(C1)C(F)(F)F)(F)F | C24H19F6N3O4
